US03962259
Treatment of 4-hydroxy-4-(α-hydroxy-4-trifluoromethyl-2-tolyl)-1-methylpiperidine with hydrochloric acid by the method described in Example 16d provides 1,3-dihydro-1'-methyl-6-trifluoromethylspiro[isobenzofuran-1,4'-piperidine].

reactant | 4-hydroxy-4-(α-hydroxy-4-trifluoromethyl-2-tolyl)-1-methylpiperidine | OC1(CCN(CC1)C)C1=C(C=CC(=C1)C(F)(F)F)CO | C14H18F3NO2
reactant | hydrochloric acid | Cl | ClH
product | 1,3-dihydro-1'-methyl-6-trifluoromethylspiro[isobenzofuran-1,4'-piperidine] | CN1CCC2(CC1)OCC1=CC=C(C=C12)C(F)(F)F | C14H16F3NO
